US05521170
A solution of 1-[4-[2-(2-azidomethylphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline (535 mg) in a mixture of methanol (35 ml) and dioxane (4 ml) containing catalytic palladium on carbon (60 mg) was stirred under atmospheric pressure of hydrogen at ambient temperature. After 3 hours, the reaction mixture was filtered through a bed of celite, and then concentrated to give 1-{4-[2-(2-aminomethylphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline (395 mg) which was purified by recrystallization from a mixture of ethyl acetate and diethyl ether.

reactant | 1-[4-[2-(2-azidomethylphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline | 535 mg | N(=[N+]=[N-])CC1=C(C=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC=C1 | C30H25N5O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 35 ml | CO | CH4O
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
product | 1-{4-[2-(2-aminomethylphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline | 395 mg | NCC1=C(C=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC=C1 | C30H27N3O2
